US09447090B2
To a solution of 2.32 g of tert-butyl (2E)-3-[2-(hydroxymethyl)-4-methylphenyl]acrylate in 46 ml of THF were added 4.64 g of carbon tetrabromide and 3.67 g of triphenylphosphine under ice-cooling, followed by stirring at the same temperature for 2.5 hours. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was washed with water and saturated brine in this order, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2.73 g of tert-butyl (2E)-3-[2-(bromomethyl)-4-methylphenyl]acrylate.

reactant | tert-butyl (2E)-3-[2-(hydroxymethyl)-4-methylphenyl]acrylate | 2.32 g | OCC1=C(C=CC(=C1)C)/C=C/C(=O)OC(C)(C)C | C15H20O3
reactant | carbon tetrabromide | 4.64 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 3.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | THF | 46 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (2E)-3-[2-(bromomethyl)-4-methylphenyl]acrylate | 2.73 g | BrCC1=C(C=CC(=C1)C)/C=C/C(=O)OC(C)(C)C | C15H19BrO2
